US06693202B1
1-benzyl-4-piperidyl benzhydrylcarbamate (1.1 g, 4.5 mmol) was dissolved in anhydrous methanol (15 mL) and formic acid (5 mL, 132 mmol) and the solution was flushed with gaseous nitrogen for 15 min. 10% Palladium on carbon (0.3 g) was added and the reaction mixture was stirred under nitrogen atmosphere. After 18 h, the reaction mixture was filtered through CeliteR and the filtrate was concentrated to give a yellow solid. The solid was partitioned between 0.1 N hydrochloric acid (300 mL) and diethyl ether (300 mL). The aqueous layer was washed with diethyl ether and then basified with 1 N sodium hydroxide solution to pH 12. A white solid precipitated out which was extracted into ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate and evaporated to dryness to give 4-piperidyl benzhydrylcarbamate as a colorless solid (0.65 g, 78%). MS=311.3 MH+.

reactant | 1-benzyl-4-piperidyl benzhydrylcarbamate | 4.5 mmol, 1.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(OC1CCN(CC1)CC1=CC=CC=C1)=O | C26H28N2O2
reactant | formic acid | 132 mmol, 5 mL | C(=O)O | CH2O2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Palladium on carbon | 0.3 g | [Pd] | Pd
product | 4-piperidyl benzhydrylcarbamate | 0.65 g, 78% | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(OC1CCNCC1)=O | C19H22N2O2
